US06924295B2
5-Acetyloxyquinoline
To a solution of 5-hydroxyquinoline (5.1 g) in pyridine (100 ml) was added acetic anhydride (4.0 ml) and then the reaction mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated. The residue was diluted with water. The diluted solution was extracted with ethyl acetate. The extracted solution was washed with water and a saturated aqueous solution of sodium chloride subsequently, dried over anhydrous magnesium sulfate and then concentrated. The residue was azeotropled with toluene to give the title compound (7.7 g) having the following physical data. The obtained compound was used without purification in the subsequent reaction.

reactant | 5-hydroxyquinoline | 5.1 g | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | acetic anhydride | 4.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5-Acetyloxyquinoline | 7.7 g | C(C)(=O)OC1=C2C=CC=NC2=CC=C1 | C11H9NO2
